### PR TITLE
[Merged by Bors] - fix: improved transitivity, handles `HEq.trans`

### LINKED ISSUE #1119: trans tactic does not use `HEq.trans`
See example in `Mathlib.CategoryTheory.Functor.FullyFaithful`.

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
Transitivity handles heterogeneous cases and premutations of parameters. Fixes #1119

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/FullyFaithful.lean [hunk 1]
```diff
@@ -322,15 +322,15 @@ protected def Faithful.div (F : C ⥤ E) (G : D ⥤ E) [Faithful G] (obj : C →
...
-      all_goals { apply h_obj }
+      apply G.map_injective
+      apply eq_of_heq
+      trans F.map (𝟙 X)
+      exact h_map
+      rw [F.map_id, G.map_id, h_obj X]
+      -- refine G.map_injective <| eq_of_heq <| h_map.trans ?_
+      -- simp only [Functor.map_id]
+      -- convert HEq.refl (𝟙 (F.obj X))
+      -- all_goals { apply h_obj }
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Functor/FullyFaithful.lean:333]:
```suggestion
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 2]
```diff
@@ -54,21 +106,70 @@ that is, a relation which has a transitivity lemma tagged with the attribute [tr
...
+    | Expr.app f z =>
+      match (← getExplicitRelArg? tgt f z) with
+      | some (rel, x) =>
+        let (rel, x) ← getExplicitRelArgCore tgt rel x z
+        pure (rel, x, z)
+      | none => throwError "transitivity lemmas only apply to
+        binary relations, not {indentExpr tgt}"
+    | _ => throwError "transitivity lemmas only apply to binary relations, not {indentExpr tgt}"
+  -- let .app (.app rel x) z := tgt
+  --   | throwError "transitivity lemmas only apply to binary relations, not {indentExpr tgt}"
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:120]:
```suggestion
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 3]
```diff
@@ -41,10 +44,59 @@ initialize registerBuiltinAttribute {
...
+/-- Composition using the `Trans` class in the general case. -/
+def _root_.Trans.het {a : α}{b : β}{c : γ}
+  {r : α → β → Sort u} {s : β → γ → Sort v} {t : outParam (α → γ → Sort w)}
+  [Trans r s t]: r a b → s b c → t a c := trans
+
+
 open Lean.Elab.Tactic
+
+/-- solving `e ← mkAppM' f #[x]` -/
+def getExplicitFuncArg? (e: Expr) : MetaM (Option <| Expr × Expr) := do
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:59]:
```suggestion
def getExplicitFuncArg? (e : Expr) : MetaM (Option <| Expr × Expr) := do
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 4]
```diff
@@ -41,10 +44,59 @@ initialize registerBuiltinAttribute {
...
+  match e with
+  | Expr.app f a => do
+    if ← isDefEq (← mkAppM' f #[a]) e then
+      return some (f, a)
+    else
+      getExplicitFuncArg? f
+  | _ => return none
+
+/-- solving `tgt ← mkAppM' rel #[x, z]` given `tgt = f z` -/
+def getExplicitRelArg? (tgt f z: Expr) : MetaM (Option <| Expr × Expr) := do
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:69]:
```suggestion
def getExplicitRelArg? (tgt f z : Expr) : MetaM (Option <| Expr × Expr) := do
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 5]
```diff
@@ -41,10 +44,59 @@ initialize registerBuiltinAttribute {
...
+      catch _ =>
+        pure false
+    if check then
+      return some (rel, x)
+    else
+      getExplicitRelArg? tgt rel z
+  | _ => return none
+
+/-- refining `tgt ← mkAppM' rel #[x, z]` dropping more arguments if possible -/
+def getExplicitRelArgCore(tgt rel x z: Expr) : MetaM (Expr × Expr) := do
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:85]:
```suggestion
def getExplicitRelArgCore(tgt rel x z : Expr) : MetaM (Expr × Expr) := do
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 6]
```diff
@@ -54,21 +106,68 @@ that is, a relation which has a transitivity lemma tagged with the attribute [tr
...
+      | some (rel, x) =>
+        let (rel, x) ← getExplicitRelArgCore tgt rel x z
+        pure (rel, x, z)
+      | none => throwError "transitivity lemmas only apply to
+        binary relations, not {indentExpr tgt}"
+    | _ => throwError "transitivity lemmas only apply to binary relations, not {indentExpr tgt}"
+  trace[Tactic.trans]"goal decomposed"
+  trace[Tactic.trans]"rel: {indentExpr rel}"
+  trace[Tactic.trans]"x:{indentExpr x}"
+  trace[Tactic.trans]"z:  {indentExpr z}"
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:122]:
```suggestion
  trace[Tactic.trans]"x: {indentExpr x}"
  trace[Tactic.trans]"z: {indentExpr z}"
```

File: test/trans.lean [hunk 7]
```diff
@@ -63,3 +63,9 @@ example (x n p : Nat) (h₁ : n * Nat.succ p ≤ x) : n * p ≤ x := by
   trans
   · apply Nat.mul_le_mul_left; apply Nat.le_succ
   · apply h₁
+
+example (a : α)(c: γ): ∀ b: β, HEq a b → HEq b c → HEq a c := by
```
Comment (semorrison) [inline test/trans.lean:67]:
```suggestion
example (a : α)(c : γ) : ∀ b : β, HEq a b → HEq b c → HEq a c := by
```

File: Mathlib/CategoryTheory/Functor/FullyFaithful.lean [hunk 8]
```diff
@@ -322,15 +322,11 @@ protected def Faithful.div (F : C ⥤ E) (G : D ⥤ E) [Faithful G] (obj : C →
       intros X
       -- Porting note: The mathlib3 proof uses the `trans` tactic, which didn't work.
       -- See https://github.com/leanprover-community/mathlib4/issues/1119
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Functor/FullyFaithful.lean:324]:
```suggestion
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 9]
```diff
@@ -41,10 +44,59 @@ initialize registerBuiltinAttribute {
...
 }
 
-/-- Compose two proofs by transitivity, simplified to the homogeneous case. -/
+/-- Composition using the `Trans` class in the homogeneous case. -/
 def _root_.Trans.simple {a b c : α} [Trans r r r] : r a b → r b c → r a c := trans
 
+/-- Composition using the `Trans` class in the general case. -/
+def _root_.Trans.het {a : α}{b : β}{c : γ}
+  {r : α → β → Sort u} {s : β → γ → Sort v} {t : outParam (α → γ → Sort w)}
+  [Trans r s t]: r a b → s b c → t a c := trans
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:53]:
```suggestion
def _root_.Trans.het {a : α} {b : β} {c : γ}
  {r : α → β → Sort u} {s : β → γ → Sort v} {t : outParam (α → γ → Sort w)}
  [Trans r s t] : r a b → s b c → t a c := trans
```

File: Mathlib/Tactic/Relation/Trans.lean [hunk 10]
```diff
@@ -41,10 +44,59 @@ initialize registerBuiltinAttribute {
...
+      catch _ =>
+        pure false
+    if check then
+      return some (rel, x)
+    else
+      getExplicitRelArg? tgt rel z
+  | _ => return none
+
+/-- refining `tgt ← mkAppM' rel #[x, z]` dropping more arguments if possible -/
+def getExplicitRelArgCore(tgt rel x z : Expr) : MetaM (Expr × Expr) := do
```
Comment (semorrison) [inline Mathlib/Tactic/Relation/Trans.lean:85]:
```suggestion
def getExplicitRelArgCore (tgt rel x z : Expr) : MetaM (Expr × Expr) := do
```

**Comment by semorrison** [comment]
bors merge
